US07375113B2
To a solution of 1-(3-aminopropyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxy-phenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine (60 mg) in N,N-dimethylformamide (3 mL) were added 2-benzyloxy-carbonylaminoacetic acid (17 mg), 1-hydroxybenzotriazole (11 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (26 mg) and triethylamine (0.037 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water, a saturated aqueous sodium hydrogen carbonate solution and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/2−1/5) to give 1-{3-[2-(benzyloxycarbonylamino)acetylamino]propyl}-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine (48 mg). This material was dissolved in methanol (2 mL). To the solution was added 10% palladium-carbon powder (20 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 3 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give 1-[3-(2-aminoacetylamino)propyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)-ethyl]-1H-pyrazolo[3,4-b]pyridine (39 mg). This material was dissolved in methanol (2 mL). To the solution was added sodium methoxide (28% methanol solution, 0.02 mL), and the mixture was stirred at 50° C. overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) and preparative reverse phase column chromatography (Shiseido CAPCELL PAK UG120 ODS, 5 μm, 120 Å, 20×50 mm, flow rate 30 mL/minute linear gradient, water/methanol =90/10−10/90) successively to give the title compound (6 mg)

reactant | 1-(3-aminopropyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxy-phenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine | 60 mg | NCCCN1N=C(C=2C1=NC=CC2CCC2=CC=C(C=C2)OC(C(C)(C)C)=O)O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C48H70N4O12
reactant | 2-benzyloxy-carbonylaminoacetic acid | 17 mg | C(C1=CC=CC=C1)OC(C(=O)O)N=C=O | C10H9NO4
reactant | 1-hydroxybenzotriazole | 11 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 26 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydrochloric acid | 0.5 mol/L | Cl | ClH
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.037 mL | C(C)N(CC)CC | C6H15N
product | 1-{3-[2-(benzyloxycarbonylamino)acetylamino]propyl}-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine | 48 mg | C(C1=CC=CC=C1)OC(=O)NCC(=O)NCCCN1N=C(C=2C1=NC=CC2CCC2=CC=C(C=C2)OC(C(C)(C)C)=O)O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C58H79N5O15
